US07544683B2
b) Step 2: trans-N′-{4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoyl}-hydrazinecarboxylic acid tert-butyl ester
A mixture of 420 mg (0.93 mmol) of trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid, 156 mg (1.18 mmol) of tert-butyl carbazate, 272 mg (1.42 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 192 mg (1.42 mmol) of 1-hydroxybenzotriazole, and 574 mg (5.67 mmol) of N-methylmorpholine in 10 ml of dichloromethane was stirred for 3 h at room temperature. After evaporation, the mixture was diluted with AcOEt, washed with water and saturated NaHCO3 solution, dried over Na2SO4, and evaporated. The residue was purified by column chromatography on silica eluting with dichloromethane and methanol=from 98:2 to 19:1. The combined product fractions were evaporated to dryness to yield 0.46 g (quant.) of the title compound. MS (m/e): 489.4 (MH+).

reactant | trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid | 0.93 mmol, 420 mg | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C(=O)O)C=C1 | C21H30N2O4
reactant | tert-butyl carbazate | 1.18 mmol, 156 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.42 mmol, 272 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.42 mmol, 192 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 5.67 mmol, 574 mg | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | trans-N′-{4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoyl}-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NNC(C1=CC=C(C=C1)O[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C)C)=O | C26H40N4O5
